US07135475B2
A solution of 8-(4-amino-benzyl)-3-cyclopropylmethyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione (50 mg, 0.12 mmol) in N,N-dimethylformamide at 25° C. was treated with a solution of 1-methyl-1H-pyrazole-4-carboxylic acid (15 mg, 0.12 mmol), O-benzotriazol-1-yl-N,N.N′N′-tetramethyluronium hexafluorophosphate (49.7 mg, 0.13 mmol), and N,N-diisopropylethylamine (62 μL, 0.36 mmol). The resulting solution was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was dissolved in chloroform and then was washed with a 1N aqueous hydrochloric acid solution (1×10 mL) and a saturated aqueous sodium chloride solution (1×10 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 760mesh, 5:95 methanol/dichloromethane) afforded 1-methyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide (13.5 mg, 21.5%) as a tan solid: EI-HRMS m/e calcd for C28H26N7O3 (M+) 527.2081, found 527.2083.

reactant | 8-(4-amino-benzyl)-3-cyclopropylmethyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | 0.12 mmol, 50 mg | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CC2CC2)C=C1 | C23H22FN5O2
reactant | 1-methyl-1H-pyrazole-4-carboxylic acid | 0.12 mmol, 15 mg | CN1N=CC(=C1)C(=O)O | C5H6N2O2
reactant | N,N-diisopropylethylamine | 0.36 mmol, 62 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-methyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | 13.5 mg, 21.5% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(=O)C=1C=NN(C1)C)=O)CC1=C(C=CC=C1)F)=O | C28H26FN7O3
